US05086062
5-Fluoro-6-[(5,6-Dihydro-2H-pyran-3-yl)methylamino]benzoxazolin-2-one
To a solution of 6-amino-5-fluoro-benzoxazolin-2-one (0.97 g, 5.7 mmole) and 3-formyl-5,6-dihydro-2H-pyran (0.71 g, 6.3 mmole) in ethanol (40 ml) were added molecular sieves (4A, 1 g). The mixture was heated under reflux for 3 hours. Upon cooling, the reaction mixture was filtered and the filtrate was concentrated to yield a solid product, which was washed with ethanol. This product was dissolved in methanol (200 ml) and then sodium borohydride was added in portions at room temperature. Stirring was continued for hours. The reaction mixture was concentrated and water was added. The organic material was extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate, and concentrated. The resulting residue was recrystallized from methanol to afford 420 mg of the title product (28%): m.p. 175°-176° C.

reactant | 6-amino-5-fluoro-benzoxazolin-2-one | 5.7 mmole, 0.97 g | NC1=CC2=C(NC(O2)=O)C=C1F | C7H5FN2O2
reactant | 3-formyl-5,6-dihydro-2H-pyran | 6.3 mmole, 0.71 g | C(=O)C=1COCCC1 | C6H8O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-Fluoro-6-[(5,6-Dihydro-2H-pyran-3-yl)methylamino]benzoxazolin-2-one | 420 mg, 28% | FC=1C(=CC2=C(NC(O2)=O)C1)NCC=1COCCC1 | C13H13FN2O3
